US09278978B2
Ka) 3-iodo-5-methylimidazo[1,2-a]pyridine
To 5-methyl-imidazo[1,2-a]pyridine (0.51 g, 3.0 mmol) in ACN (1 ml) at RT is added NIS (0.73 g, 3.3 mmol) and stirring continued for 18 h. The mixture is poured onto water. The precipitate is collected, washed with water and dried. Yield: 0.78 g (92%). HPLC-MS: M+H=259; tR=1.04 min (METHOD—1).

reactant | 5-methyl-imidazo[1,2-a]pyridine | 3.0 mmol, 0.51 g | CC1=CC=CC=2N1C=CN2 | C8H8N2
reactant | NIS | 3.3 mmol, 0.73 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | ACN | 1 ml | C(C)#N | C2H3N
product | 3-iodo-5-methylimidazo[1,2-a]pyridine | IC1=CN=C2N1C(=CC=C2)C | C8H7IN2
